US05173510
3-(Acetylamino)-N-(4-oxo-12(Z)-heneicosenyl)propan amide, 41
A 160 mg portion of 3-(acetylamino)-N-(4-hydroxy-12(Z)-heneicosenyl)propanamide was dissolved in 5 ml of dichloromethane and treated with 157 mg of pyridium chlorochromate for 2 hours. The solution was passed through a short pad of hydrous magnesium silicate and washed repeatedly with fresh dichloromethane. The filtrate and washes were combined and evaporated, giving 92 mg of the desired product as an off-white solid, mp 123°-125° C.

reactant | 3-(acetylamino)-N-(4-hydroxy-12(Z)-heneicosenyl)propanamide | C(C)(=O)NCCC(=O)NCCCC(CCCCCCC\C=C/CCCCCCCC)O | C26H50N2O3
reactant | pyridium chlorochromate | 157 mg | C=1C=CC(=CC1)N=NC=2C=CC(=NC2N)N.Cl.[Cr](=O)(=O)([O-])Cl
reactant | magnesium silicate | [Si]([O-])([O-])([O-])[O-].[Mg+2].[Mg+2]
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 3-(Acetylamino)-N-(4-oxo-12(Z)-heneicosenyl)propan amide | 92 mg | C(C)(=O)NCCC(=O)NCCCC(CCCCCCC\C=C/CCCCCCCC)=O | C26H48N2O3
